US04261997
4,9-Dihydro-4-methyl-9-oxo-pyrazolo[5,1-b]quinazoline-2-carboxylic Acid
A mixture of 5.8 g of 4,9-dihydro-4-methyl-9-oxo-pyrazolo[5,1-b]quinazoline-2-carboxylic acid, ethyl ester, 50 ml of 1 N aqueous sodium hydroxide and 400 ml of methanol is heated at reflux until complete solution is attained (about 30 minutes). The solution is evaporated at reduced pressure to remove methanol; the residue is diluted with water and acidified with 1 N hydrochloric acid. The resulting precipitate is 4,9-dihydro-4-methyl-9-oxo-pyrazolo[5,1-b]quinazoline-2-carboxylic acid is collected by filtration, washed with water and dried; mp 265° C., after crystallization from dimethylformamide/methanol.

reactant | 4,9-dihydro-4-methyl-9-oxo-pyrazolo[5,1-b]quinazoline-2-carboxylic acid, ethyl ester | 5.8 g | CN1C=2N(C(C=3C=CC=CC13)=O)N=C(C2)C(=O)OCC | C14H13N3O3
reactant | sodium hydroxide | 1 N, 50 ml | [OH-].[Na+]
solvent | methanol | 400 ml | CO | CH4O
product | 4,9-Dihydro-4-methyl-9-oxo-pyrazolo[5,1-b]quinazoline-2-carboxylic Acid | CN1C=2N(C(C=3C=CC=CC13)=O)N=C(C2)C(=O)O | C12H9N3O3
